US06884821B1
5.0 g of 2-methoxyphenylacetic acid was dissolved in 20 ml dichloromethane, and 4.6 g of oxalyl dichloride was added, and the mixture was stirred at room temperature for 3 hours. The solvent and an excessive oxalyl dichloride were evapoarated, and the residue was dissolved in 20 ml dichloromethane. Under ice-cooling, 14 g of 4-trifluoromethyl aniline was added thereto, followed by stirring at room temperature for 12 hours. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate, washed with 1N hydrochloric acid and brine, dried over anhydrous magnesium sulfate and then the solvent was evpoarated. The resulting solid was collected by filtration and washed with diethyl ether, to give 8.0 g of N-[4-(trifluoromethyl)phenyl]-2-(2-methoxyphenyl)acetamide as a colorless solid.

reactant | 2-methoxyphenylacetic acid | 5.0 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | oxalyl dichloride | 4.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-trifluoromethyl aniline | 14 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[4-(trifluoromethyl)phenyl]-2-(2-methoxyphenyl)acetamide | 8.0 g | FC(C1=CC=C(C=C1)NC(CC1=C(C=CC=C1)OC)=O)(F)F | C16H14F3NO2
